* source LP_ANT
V_V1         N00428 0 DC 0Vdc AC 1Vac 
C_C1         N00121 0  {c}  TC=0,0 
C_C2         OUT 0  {c}  TC=0,0 
L_L1         N00121 OUT  18nH  
R_R1         N00428 N00121  50 TC=0,0 
R_R2         0 OUT  50 TC=0,0 
.PARAM  c=8.8pf
